US05430163
An example of such a catalyst complex has the structure Pd2DBA3.CHCl3, in which DBA is dibenzylideneacetone. This complex is formed by the addition of palladium (II) chloride to a methanol solution containing sodium acetate and dibenzylideneacetone. The reaction mixture was warmed to 55° C. for one hour to form a precipitate, noting that excessive heating causes decomposition of the complex to palladium metal. The precipitate and catalyst precursor is filtered from the methanol and redissolved in chloroform to produce a dark purple solution, which is stripped under reduced pressure to produce a dark purple-black solid of Pd2DBA3.CHCl3. This solid is redissolved and added to a solution of diene polymer or copolymer.

reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | dibenzylideneacetone | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1 | C17H14O
reactant | palladium | [Pd] | Pd
product | Pd2DBA3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd] | InChI=1S/3C17H14O.2Pd/c3*18-17(13-11-15-7-3-1-4-8-15)14-12-16-9-5-2-6-10-16;;/h3*1-14H;;/b3*13-11+,14-12+;;
